US07153878B2
4-Isopropyl-5-(2-methoxy-1-methyl-vinyl)-2-(4-trifluoromethyl-phenyl)-thiazole is dissolved into anhydrous tetrahydrofuran (100 mL) and concentrated hydrochloric acid (5 mL) is added with stirring under nitrogen. The reaction is heated to 50° C. and monitored by TLC. Upon complete consumption of starting material, the reaction is carefully neutralized with sodium hydroxide, extracted with diethyl ether, washed, dried, and concentrated. The 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde (4.6 g, 14.05 mmol), 82% two steps, is obtained in pure form after flash column chromatography.

reactant | 4-Isopropyl-5-(2-methoxy-1-methyl-vinyl)-2-(4-trifluoromethyl-phenyl)-thiazole | C(C)(C)C=1N=C(SC1C(=COC)C)C1=CC=C(C=C1)C(F)(F)F | C17H18F3NOS
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde | 14.05 mmol, 4.6 g | C(C)(C)C=1N=C(SC1C(C=O)C)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NOS
